US06869954B2
Preparation of 2-cinnamyl-4-dimethylaminomethyl-6-(4-fluoro-3-methylphenyl)-2H-pyridazin-3-one
Following the procedure of Example 7, 2-cinnamyl-6-(4-fluoro-3-methylphenyl)-4-methanesulfonyloxymethyl-2H-pyridazin-3-one and dimethylamine were reacted to yield the title compound as a yellow oil (yield: 90.9%).

reactant | 2-cinnamyl-6-(4-fluoro-3-methylphenyl)-4-methanesulfonyloxymethyl-2H-pyridazin-3-one | C(C=CC1=CC=CC=C1)N1N=C(C=C(C1=O)COS(=O)(=O)C)C1=CC(=C(C=C1)F)C | C22H21FN2O4S
reactant | dimethylamine | CNC | C2H7N
product | 2-cinnamyl-4-dimethylaminomethyl-6-(4-fluoro-3-methylphenyl)-2H-pyridazin-3-one | yield: 90.9% | C(C=CC1=CC=CC=C1)N1N=C(C=C(C1=O)CN(C)C)C1=CC(=C(C=C1)F)C | C23H24FN3O
